US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and phenylboronic acid to give (7-methoxy-1-phenyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 331(MH+).

reactant | (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | (7-methoxy-1-phenyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | COC1=CC=C2C=C(N=C(C2=C1)C1=CC=CC=C1)NC1=NNC(=C1)C | C20H18N4O
